US07838499B2
Preparation of 4-bromo-1-chloro-2-(4-vinylbenzyl)benzene (Intermediate AM)
To a solution of Ph3PCH3I (0.97 g) in toluene (5 mL), KN(TMS)2 (0.5M in toluene, 4.8 mL) was added dropwise at room temperature. After 10 min, the solution of 4-(5-bromo-2-chlorobenzyl)benzaldehyde (intermediate AL) (0.62 g) in toluene (2 mL) was added dropwise. After 2 h, aqueous NaHCO3 was added to quench the reaction, and the resulting mixture was extracted with ethyl acetate. The organic layers were combined, washed with brine, and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the product was purified by column chromatography to obtain pure intermediate AM (0.5 g).

reactant | 4-(5-bromo-2-chlorobenzyl)benzaldehyde | 0.62 g | BrC=1C=CC(=C(CC2=CC=C(C=O)C=C2)C1)Cl | C14H10BrClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-1-chloro-2-(4-vinylbenzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C=C | C15H12BrCl
